US08022222B2
Step A: Preparation of 4-(benzyloxy)pyridin-2-amine:
4-(benzyloxy)-2-chloropyridine (18.6 g, 84.7 mmol), XPHOS (4.04 g, 8.47 mmol), and Pd2dba3 (3.88 g, 4.23 mmol) were mixed in THF (250 mL). LHMDS (93.1 ml, 93.1 mmol) was added and the reaction was heated at 50° C. for 1.5 hours. The solution was cooled and diluted with 1N HCl (50 mL) and stirred at ambient temperature for 2 hours. The reaction was concentrated and the residue was extracted with EtOAc. The aqueous layer was basified with saturated K2CO3 and the aqueous layer was extracted with EtOAc. The combined organic layers were dried and concentrated to give the desired product (11.9 g, 70.2% yield) as a brown solid.

reactant | 4-(benzyloxy)-2-chloropyridine | 84.7 mmol, 18.6 g | C(C1=CC=CC=C1)OC1=CC(=NC=C1)Cl | C12H10ClNO
reactant | XPHOS | 8.47 mmol, 4.04 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | LHMDS | 93.1 mmol, 93.1 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | HCl | 1N, 50 mL | Cl | ClH
catalyst | Pd2dba3 | 4.23 mmol, 3.88 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(benzyloxy)pyridin-2-amine | 11.9 g, 70.2% yield | C(C1=CC=CC=C1)OC1=CC(=NC=C1)N | C12H12N2O
